US06433211B1
A mixture containing ethyl m-cyanobenzoate (87.5 g, 0.5 mol), methanol (192.5 g), and water (449.2 g) was placed in a 1 l-flask, and heated to 82° C. with stirring by use of a mechanical stirrer. When the temperature became stable, a 20% aqueous solution of sodium hydroxide was added thereto so as to adjust the pH of the mixture at 9.0-9.3. Four hours after the reaction started, 20% sodium hydroxide (98.2 g) was added to the mixture. Liquid chromatographic analysis revealed that the reaction mixture contained 68.4 g of m-cyanobenzoic acid (yield 93%). The reaction mixture was cooled to 30° C., and hydrochloric acid was added thereto to lower the pH of the mixture to 3.1. The mixture was heated again to 82° C., and methanol was added thereto until the mixture dissolves. The mixture was cooled so as to crystallize, to thereby obtain 63.8 g of m-cyanobenzoic acid crystal (purity 96.8%, yield 84%).

reactant | ethyl m-cyanobenzoate | 0.5 mol, 87.5 g | C(#N)C=1C=C(C(=O)OCC)C=CC1 | C10H9NO2
reactant | methanol | 192.5 g | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 98.2 g | [OH-].[Na+]
solvent | water | 449.2 g | O | H2O
product | m-cyanobenzoic acid | 68.4 g, yield 93% | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
